US06887896B1
1-(3-Hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (Compound A-88)
To 1-(3-methoxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (Compound A-86, 14.2 g, 61.2 mmol) in dichloromethane (350 mL) at −78° C. was added boron tribromide (1 M in hexane, 80 mL, 80 mmol). After stirring from −78° C. to room temperature over 3 h the reaction mixture was quenched with sodium bicarbonate at −10° C. and extracted with diethyl ether. Combined ethereal layers were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. Recrystallization from diethyl ether afforded the title compound as a brown solid.

reactant | 1-(3-methoxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | 61.2 mmol, 14.2 g | COC=1C(=CC=2CCCC(C2C1)(C)C)C(C)=O | C15H20O2
reactant | boron tribromide | 80 mmol, 1 M, 80 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 1-(3-Hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | OC=1C(=CC=2CCCC(C2C1)(C)C)C(C)=O | C14H18O2
